US04950674
5-Oxo-1-(phenylmethyl)-3-pyrrolidinecarboxylic acid methyl ester
A solution of 158.2 g (1.0 mole) of dimethylitaconate and 107.2 g (1.0 mole) of benzylamine in 750 ml of methanol was let stand at ambient temperature over the weekend. The solution was filtered and the filtrate was concentrated under reduced pressure to give an oil as residue. The oil crystallized when it was triturated with petroleum ether (30°-60° C.). The solid was collected by filtration and dried to yield 225.5 g (97%) of the title compound as a white powder. An analytical sample, m.p. 63°-65° C., was prepared from 2-propyl ether.

reactant | dimethylitaconate | 1.0 mole, 158.2 g | COC(C(=C)CC(=O)OC)=O | C7H10O4
reactant | benzylamine | 1.0 mole, 107.2 g | C(C1=CC=CC=C1)N | C7H9N
solvent | methanol | 750 ml | CO | CH4O
product | 5-Oxo-1-(phenylmethyl)-3-pyrrolidinecarboxylic acid methyl ester | 225.5 g, 97% | COC(=O)C1CN(C(C1)=O)CC1=CC=CC=C1 | C13H15NO3
